Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Neck and bilateral wrist lacerations after suicide attempt.
 
Major Surgical or Invasive Procedure:
Repair of bilateral upper extremity lacerations
 
History of Present Illness:
___ female smoker with a PMHx of Hepatitis C and 
depression, who presents with neck, wrist, and antecubital 
lacerations, self inflicted early this AM. A bystander called 
EMS, who found the patient sitting in a pool of blood on a couch 
by the side of the railroad tracks. EMS reports that the 
patient's BP was 80/54, and they gave her IV fluids and 
lidocaine to place an IO in transit. In the ED, the patient is 
hypotensive at 89/37 with weak radial pulses and decreased 
capillary refill of ___ seconds, and required placement of a 
central line. The patient is mentating normally and responsive 
to commands. She admits to EtOH use today and denies any drug 
use, however she admits to using crack yesterday. The patient is 
notably anxious and upset in the ED, and states that she intends 
to try to commit suicide again in the future.

 
Past Medical History:
Hepatitis C, anxiety, depression, drug abuse
 
Social History:
___
Family History:
Denies known psych illness, SAs, addiction.

 
Physical Exam:
On admission:
HEENT: Pupils 3mm, round, reactive to light B/L. Stable, 
nontender facial bones. No hemotypanum. No c-spine tenderness. 
Superficial laceration below mandible
Chest: Air patent with equal breath sounds bilaterally.
Cardiovascular: Mild anterior chest wall tenderness.
Extr/Back: Weak radial pulses B/L. Decreased capillary refill of 
___ seconds.
Skin: Superficial laceration over anterior neck without active 
bleeding or hematoma. Transverse laceration over R wrist. 
Longitudinal laceration over R AC. 2 long and 1 transverse 
laceration over L wrist
Neuro: Mentating, Speech fluent

At discharge:
Vitals: T 98.4 HR 95, BP 95/60, RR 18, SaO2 98% RA
Gen: well-appearing, NAD, calm & cooperative.
Skin: Superficial laceration over left anterior neck open to 
air. On RUE, 
wounds at antecubital fossa, right forearm distally & volar 
wrist. On LUE, wounds x2 on left volar wrist and over distal 
radius. All UE wounds closed with interrupted nylon sutures, 
open to air, no purulence/drainage, no erythema. Scattered 
well-healed linear incision scars on left distal forearm. 
Neuro: AOx3, speech influent, flat affect. CN II-XII intact. 
HEENT: PERRL, EOM intact
Neck: Non-tender, no masses.
CV: RRR, no murmurs
Pulm: no respiratory distress, CTAB
GI: normoactive BS, soft, non-tender, non-distended. 
Ext: warm, well-perfused, no edema. Palpable distal pulses. 

 
Pertinent Results:
___ 03:50PM BLOOD WBC-5.2 RBC-2.59* Hgb-7.8* Hct-22.1* 
MCV-85 MCH-30.2 MCHC-35.5* RDW-13.9 Plt ___
___ 04:00PM BLOOD Hct-26.3*
___ 03:50PM BLOOD Glucose-99 UreaN-4* Creat-0.5 Na-139 
K-3.9 Cl-103 HCO3-28 AnGap-12

___: No acute cardiopulmonary abnormality. No traumatic 
findings.
 
Brief Hospital Course:
On arrival to the ED, a right IJ line was placed for venous 
access for systolic BPs in the ___. The patient responded well 
to fluid resuscitation and did not require any blood products. 
Her wounds included a superficial laceration over the anterior 
neck without active bleeding or hematoma. On the right upper 
extremity, she had lacerations at the antecubital fossa, distal 
forearm, and volar wrist. On her left wrist, she had multiple 
lacerations at the distal forearm. 

Her neck laceration required no surgical repair. On evaluation 
by Plastic Surgery,  the lacerations on her right upper 
extremity were deemed to be superficial. Her hand exam was 
completely normal distal to the injury, and there was no 
suggestion of nerve injury. The left side  had a deeper 
laceration into the proximal carpal tunnel with a likely injury 
to the palmar cutaneous branch of the median nerve. The 
lacerations on both sides were closed with interrupted ___ nylon 
sutures. 

After her acute injuries were addressed, the patient was 
assessed by Psychiatry, who determined she would meet criteria 
for ___ (risk to self) once medically cleared. While 
inpatient, Ms. ___ required a 1-to-1 sitter then 
necessitated seclusion after being physically and verbally 
abusive towards health care staff. She was placed on a CIWA 
scale on admission but never scored. She was restarted on her 
home Seroquel once hemodynamically stable and received diazepam 
PRN (after discontinuation of CIWA scale) for anxiety. 

Ms. ___ received prophylactic antibiotic treatment for her 
wounds (cephalexin) and was also treated with ciprofloxacin for 
a UTI. (These were discontinued on day of discharge as she 
completed a 5-day course). She had a drop in hematocrit on HD2 
but had no hemodynamic compromise and required no blood 
products. Her hematocrit steadily rose thereafter. However, the 
patient did refuse blood to be drawn for labs on her last two 
days of admission. She remained hemodynamically stable (HR 
___ 100s, SBP ___ and afebrile throughout the hospital 
course. She tolerated a regular diet, voided freely, and 
ambulated without difficulty. Pain was well-controlled on oral 
pain medications. She had no pulmonary, renal, neurologic, or 
infectious issues. 

She was medically cleared for discharge on HD4 and was 
discharged on HD5 once accepted at ___. She will 
require follow up with Ortho Hand Clinic for removal of her 
sutures.

 
 
Medications on Admission:
Thorazine
Cymbalta
Gabapentin
Seroquel
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain, fever 
2. Diazepam 5 mg PO Q6H:PRN anxiety 
3. Nicotine Patch 14 mg TD DAILY 
4. QUEtiapine Fumarate 400 mg PO QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Neck laceration, superficial
Bilateral upper extremity lacerations
Suicide attempt

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
treatment of self-inflicted wounds to your neck and wrists. Your 
neck laceration did not require any repair, but your wrist 
lacerations required sutures. You were also evaluated by 
Psychiatry who determined that you benefit from admission to an 
inpatient psychiatric facility.

You have been appropriately treated for your wounds and a 
urinary tract infection and are medically stable to be 
discharged to ___ ___ for continued psychiatric care.
 
Followup Instructions:
___